US09260429B2
N-methyl-2-(5-methyl-1-(2-(6-methylpyridin-3-yl)ethyl)-1H-indol-3-yl)ethanamine (150 mg) was dissolved in acetonitrile (4 mL) containing 5% TFA and the reaction mixture was refluxed. 37% aqueous formaldehyde (0.04 mL) was added and the reaction mixture was refluxed for additional 1.5 h, cooled to 25° C., concentrated under reduced pressure and partitioned between ethyl acetate and saturated aqueous NaHCO3. The organic layer was dried over sodium sulfate, evaporated under reduced pressure and the residue was purified by silica gel chromatography (eluent Methanol: aqueous NH3, 95:5) to obtain 2,3,4,9-tetrahydro-2,6-dimethyl-9-(2-(6-methylpyridin-3-yl)ethyl)-1H-pyrido[3,4-b]indole. The free base was converted into its dihydrochloride salt by treatment of dioxane-HCl. 1H NMR (DMSO): 11.7 (bs, 1H), 8.6 (s, 1H), 8.3 (d, 1H), 7.7 (d, 1H), 7.3 (d, 1H), 7.25 (s, 1H), 6.9 (d, 1H), 4.8 (m, 1H), 4.4 (m, 1H), 4.35 (t, 2H), 3.7 (bs, 1H), 3.55 (s, 3H), 3.5 (m, 1H), 3.4 (bs, 1H), 3.1 (t, 2H), 3.05 (bs, 1H), 2.65 (s, 3H), 2.35 (s, 3H).

reactant | N-methyl-2-(5-methyl-1-(2-(6-methylpyridin-3-yl)ethyl)-1H-indol-3-yl)ethanamine | 150 mg | CNCCC1=CN(C2=CC=C(C=C12)C)CCC=1C=NC(=CC1)C | C20H25N3
reactant | TFA | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | formaldehyde | 0.04 mL | C=O | CH2O
solvent | acetonitrile | 4 mL | C(C)#N | C2H3N
product | 2,3,4,9-tetrahydro-2,6-dimethyl-9-(2-(6-methylpyridin-3-yl)ethyl)-1H-pyrido[3,4-b]indole | CN1CC=2N(C3=CC=C(C=C3C2CC1)C)CCC=1C=NC(=CC1)C | C21H25N3
